US04290963
One gram of 17α-hexanoyloxy-4pregnene-3,20-dione is heated analogously to Example 1 in "Dowtherm" for 80 minutes to 285° C., worked up, separated, and combined. Recrystallization from ethanol yields 600 mg of 4,16-pregnadiene-3,20-dione (83% of theory), m.p. 185°-190° C.

reactant | 17α-hexanoyloxy-4pregnene-3,20-dione | One gram | C(CCCCC)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O | C27H40O4
reactant | Dowtherm | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 4,16-pregnadiene-3,20-dione | 600 mg, 83% | CC(C1=CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)=O | C21H28O2
